data/rdb19/train.csv
rxn,smiles,ea
10,[C:1]([C:2]([H:3])([H:4])[O:5][O:6][H:7])([H:8])([C:9]([H:11])([H:12])[O:14][O:13])[H:10]>>[C:1]([C:2]([H:3])([H:4])[O:5][O:6][H:7])([H:8])([H:10])[O:13].[C:9]([H:11])([H:12])=[O:14],66.90591537812725
5113,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([c:30]1[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]1[H:44])[H:39])([H:36])([H:37])[H:38]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])[H:12].[H:13][C:27]([C:26]([C:25]([H:36])([H:37])[H:38])([c:30]1[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]1[H:44])[H:39])([H:28])[H:29],23.26513298263308
1520,[C:10]([C:11]([C:12]([H:13])[H:14])([O:15][C:16](=[O:17])[C:18]([H:23])([H:24])[H:25])[H:22])([H:19])([H:20])[H:21].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[H:14])[O:15][C:16](=[O:17])[C:18]([H:23])([H:24])[H:25])([H:19])([H:20])[H:21].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[H:22])[H:6],36.05775839224225
4470,[C:13]([C:14]([C:15]([H:16])[H:17])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[H:17])[c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])([H:24])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]([O:5])([O:6][H:12])[H:27])([H:7])([H:8])[H:9],45.28096255142009
1067,[C:14]([C:15]([C:16]([C:17]([H:30])([H:31])[H:32])([c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][C:18]1([C:16]([C:15]([C:14]([H:24])([H:25])[H:26])([H:27])[H:28])([C:17]([H:30])([H:31])[H:32])[H:29])[C:19]([H:33])[C:20]([H:34])=[C:21]([H:35])[C:22]([H:36])=[C:23]1[H:37],40.41225301288068
4489,[C:13]([C:14]([C:15]([H:16])[c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]([O:5][C:15]([C:14]([C:13]([H:23])([H:24])[H:25])([H:26])[H:27])([H:16])[c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])[O:6][H:12])([H:7])([H:8])[H:9],29.23863282805541
603,[C:18]([C:19]([C:20]([H:26])([H:27])[H:28])[C:21]#[N:22])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[C:19]([C:18]([H:23])([H:24])[H:25])([C:20]([H:26])([H:27])[H:28])[C:21]#[N:22])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[O:6])[O:7][H:17],75.02807801944437
4110,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[H:31])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20](=[C:21]([c:22]1[c:23][c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29],34.735704445804004
3829,[C:13]([O:14][C:15](=[O:16])[C:17]([C:18]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20]([H:21])[H:22])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][C:20]([C:17]([C:15]([O:14][C:13]([H:23])([H:24])[H:25])=[O:16])([C:18]([H:26])([H:27])[H:28])[C:19]([H:29])([H:30])[H:31])([H:21])[H:22],17.094106170814484
5372,[C:17]([C:18]([C:19]([H:20])[O:21][C:22](=[O:23])[C:24]([H:30])([H:31])[H:32])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2][c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:9])[H:10].[H:11][C:19]([C:18]([C:17]([H:25])([H:26])[H:27])([H:28])[H:29])([H:20])[O:21][C:22](=[O:23])[C:24]([H:30])([H:31])[H:32],25.23767658806173
1178,[C:14]([C:15]([C:16](=[C:17]([H:24])[H:25])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:14]([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[C:15]([C:16](=[C:17]([H:24])[H:25])[H:23])([H:21])[H:22])([H:11])[H:12])([H:8])([H:9])[H:10],61.79768117371714
